US05696263
(S)-4-O-Benzyl-1,2,4-butanetriol
(S)-2,2-Diisopropyl-4-(2-hydroxyethyl)dioxolane (76.2 g, 0.377 mol), benzylbromide (129 g, 0.753 mol) and tetrabutylammonium iodide (7 g, 19 mmol) were mixed with a concentrated sodium hydroxide solution (40 g in 90 mL of water, 2.26 mol) in a 3-neck flask equipped with a mechanic stirrer and a condenser. After stirred at 110° C. for 18 hours, the mixture was cooled to room temperature and the organic layer was separated. The aqueous layer was extracted with methylene chloride (100 mL×2). The combined methylene chloride extrats were dried over magnesium sulfate. The solvent was evaporated, and the residue was treated with 300 mL of 1.5M sulfuric acid. After stirred at 100° C. for 8 hours, the mixture was cooled to room temperature, and hexane (300 mL) was added. The aqueous layer was washed with hexane twice (200 mL×2), and then ajusted pH to 8-9 with concentrated sodium sodium hydroxide. The solution was extrated with ethyl acetate (200 mL×3). The combined ethyl acetate extrates were dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by fractional distillation in vacuo (0.1 mmHg, bp 150°-170° C.) to give 68.3 g (92% yield) of the title compound as an oil.

reactant | (S)-2,2-Diisopropyl-4-(2-hydroxyethyl)dioxolane | 0.377 mol, 76.2 g | C(C)(C)C1(OC[C@@H](O1)CCO)C(C)C | C11H22O3
reactant | benzylbromide | 0.753 mol, 129 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydroxide | 2.26 mol, 90 mL, 40 g | [OH-].[Na+]
catalyst | tetrabutylammonium iodide | 19 mmol, 7 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (S)-4-O-Benzyl-1,2,4-butanetriol | 68.3 g, 92% yield | C(C1=CC=CC=C1)OCC[C@@H](CO)O | C11H16O3
